US08871415B2
64 parts by mass of adipic acid, 236 parts by mass of stearyl alcohol and 0.5 part by mass of dihydroxy bis titanium (triethanolaminate) serving as a condensation catalyst were put into a reaction container provided with a cooling tube, a thermometer, an agitator, a dehydration device and a nitrogen introduction tube were caused to react for 2 hours while generated water was evaporated away and were further caused to react under a reduced pressure of 5 to 20 mm Hg for 3 hours, with the result that distearyl adipic acid was obtained.

reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | stearyl alcohol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
solvent | water | O | H2O
product | distearyl adipic acid | C(CCCCCCCCCCCCCCCCC)C(C(=O)O)(CCCC(=O)O)CCCCCCCCCCCCCCCCCC | C42H82O4
